parameters sky130_fd_pr__special_nfet_01v8__toxe_slope_spectre=0.0
parameters sky130_fd_pr__special_nfet_01v8__vth0_slope_spectre=0.0
parameters sky130_fd_pr__special_nfet_01v8__voff_slope_spectre=0.0
subckt sky130_fd_pr__special_nfet_01v8 (d g s b)
parameters l=1 w=1 nf=1.0 ad=0 as=0 pd=0 ps=0 nrd=0 nrs=0 sa=0 sb=0 sd=0 mult=1
msky130_fd_pr__special_nfet_01v8 (d g s b) m_sky130_fd_pr__special_nfet_01v8__model l=l w=w nf=nf ad=ad as=as pd=pd ps=ps nrd=nrd nrs=nrs sa=sa sb=sb sd=sd
@if l*$scale >= 1.5e-7 && l*$scale < 1.8e-7 && w*$scale >= 3.6e-7 && w*$scale < 3.9e-7
    model m_sky130_fd_pr__special_nfet_01v8__model sp_bsim4v8       binunit=2.0 mobmod=0.0 capmod=2.0 igcmod=0.0 igbmod=0.0 geomod=0.0 diomod=1.0 rdsmod=0.0 rbodymod=1.0 rgatemod=0.0 permod=1.0 acnqsmod=0.0 trnqsmod=0.0 fnoimod=1.0 tnoimod=1.0 tempmod=0.0 toxe=4.148e-09 + mc_mm_switch * 0 * (4.148e-9 * 1.0 * (sky130_fd_pr__special_nfet_01v8__toxe_slope / sqrt(l * w * mult))) toxm=4.148e-9 dtox=0.0 epsrox=3.9 xj=1.5e-7 ngate=1.0e+23 ndep=1.7e+17 nsd=1.0e+20 rsh=1.0 rshg=0.1 wint=2.1859e-8 lint=1.1932e-8 vth0=-2.993931675e-01 + mc_mm_switch * 0 * (sky130_fd_pr__special_nfet_01v8__vth0_slope / sqrt(l * w * mult)) lvth0=1.161798869e-07 wvth0=3.796036009e-07 pvth0=-5.926978783e-14 k1=0.90707349 k2=-3.222046665e-01 lk2=2.791341115e-08 wk2=6.973232022e-08 pk2=-1.088772555e-14 k3=2.0 k3b=0.54 w0=0.0 dvt0=0.0 dvt1=0.53 dvt2=-0.032 dvt0w=-3.58 dvt1w=1670600.0 dvt2w=0.068 dsub=3.327233912e+00 ldsub=-4.221142868e-07 wdsub=-1.017279859e-06 pdsub=1.588340081e-13 minv=0.0 voffl=5.8197729e-9 lpe0=1.0325e-7 lpeb=-7.082e-8 vbm=-3.0 dvtp0=0.0 dvtp1=0.0 phin=0.0 cdsc=0.0 cdscb=0.0 cdscd=0.002052 cit=0.0 voff=-0.20753 + mc_mm_switch * 0 * (sky130_fd_pr__special_nfet_01v8__voff_slope / sqrt(l * w * mult)) nfactor=-9.376859947e+00 lnfactor=1.630003623e-06 wnfactor=1.905910148e-06 pnfactor=-2.975811868e-13 eta0=0.0 etab=-0.043998 u0=8.959275208e-02 lu0=-1.018794459e-08 wu0=-4.005820865e-08 pu0=6.254528466e-15 ua=-1.393966070e-09 lua=3.574422544e-17 wua=1.398486904e-16 pua=-2.183541512e-23 ub=6.496924862e-18 lub=-7.119777965e-25 wub=-2.980183442e-24 pub=4.653139219e-31 uc=-1.261952913e-10 luc=3.398367043e-17 wuc=1.186133774e-16 puc=-1.851981829e-23 ud=0.0 up=0.0 lp=1.0 eu=1.67 vtl=0.0 xn=3.0 vsat=3.102888726e+05 lvsat=-1.975165252e-02 wvsat=-6.490943285e-02 pvsat=1.013469921e-8 a0=1.5 ags=1.25 a1=0.0 a2=0.42385546 b0=0.0 b1=0.0 keta=-1.038255847e+00 lketa=1.514331597e-07 wketa=4.029564638e-07 pketa=-6.291601043e-14 dwg=0.0 dwb=0.0 pclm=1.737607849e-02 lpclm=2.557100501e-08 wpclm=1.207637111e-07 ppclm=-1.885556280e-14 pdiblc1=0.35697215 pdiblc2=0.0084061121 pdiblcb=-0.10329577 drout=0.50332666 pscbe1=791419880.0 pscbe2=1.0e-12 pvag=0.0 delta=0.01 fprout=0.0 pdits=0.0 pditsl=0.0 pditsd=0.0 lambda=0.0 lc=5.0e-9 rdsw=65.968 rsw=0.0 rdw=0.0 rdswmin=0.0 rdwmin=0.0 rswmin=0.0 prwb=0.0 prwg=0.021507 wr=1.0 alpha0=1.424179200e-07 lalpha0=-1.417994676e-14 walpha0=2.191742220e-22 palpha0=-3.422097810e-29 alpha1=0.85 beta0=1.671249334e+01 lbeta0=-3.610634598e-07 wbeta0=3.836930773e-17 pbeta0=-5.989875262e-24 agidl=0.0 bgidl=2300000000.0 cgidl=0.5 egidl=0.8 toxref=4.148e-9 dlcig=0.0 aigbacc=1.0 bigbacc=0.0 cigbacc=0.0 nigbacc=0.0 aigbinv=0.35 bigbinv=0.03 cigbinv=0.006 eigbinv=1.1 nigbinv=0.0 aigc=0.43 bigc=0.054 cigc=0.075 aigsd=0.43 bigsd=0.054 cigsd=0.075 nigc=0.0 poxedge=1.0 pigcd=1.0 ntox=1.0 vfbsdoff=0.0 dlc=9.87908e-9 dwc=0.0 xpart=0.0 cgso=2.449068e-10 cgdo=2.449068e-10 cgbo=1.0e-13 cgdl=0.0 cgsl=0.0 clc=1.0e-7 cle=0.6 cf=1.4067e-12 ckappas=0.6 vfbcv=-1.0 acde=0.4 moin=6.9 noff=3.4037 voffcv=-0.17287 xrcrg1=12.0 xrcrg2=1.0 rbpb=50.0 rbpd=50.0 rbps=50.0 rbdb=50.0 rbsb=50.0 gbmin=1.0e-12 ef=0.84 noia=2.5e+42 noib=0.0 noic=0.0 em=41000000.0 ntnoi=1.0 lintnoi=-1.0e-7 af=1.0 kf=0.0 tnoia=15000000.0 tnoib=9900000.0 rnoia=0.94 rnoib=0.26 xl=0.0 xw=0.0 dmcg=0.0 dmdg=0.0 dmcgt=0.0 xgw=0.0 xgl=0.0 ngcon=1.0 jss=0.00275 jsws=6.0e-10 ijthsfwd=0.1 ijthsrev=0.1 bvs=11.7 xjbvs=1.0 pbs=0.729 cjs=0.001339749237 mjs=0.44 pbsws=0.2 cjsws=3.67354204e-11 mjsws=0.0009 pbswgs=0.95578 cjswgs=2.38232788e-10 mjswgs=0.8 tnom=30.0 kt1=-1.368700733e-01 lkt1=-1.312958033e-08 wkt1=-8.156852971e-17 pkt1=1.273581240e-23 kt2=-0.028878939 at=1.675153666e+03 lat=6.564790165e-03 wat=-2.587959170e-11 pat=4.040746717e-18 ute=-9.418347116e-01 lute=-5.265038454e-08 wute=-2.218108973e-07 pute=3.463266627e-14 ua1=-2.3847336e-11 ub1=7.0775317e-19 uc1=1.4718625e-10 kt1l=0.0 prt=0.0 tvoff=0.0 njs=1.2928 tpb=0.0012287 tcj=0.000792 tpbsw=0.0 tcjsw=1.0e-5 tpbswg=0.0 tcjswg=0.0 xtis=2.0 tvfbsdoff=0.0 ll=0.0 wl=0.0 lln=1.0 wln=1.0 lw=0.0 ww=0.0 lwn=1.0 wwn=1.0 lwl=0.0 wwl=0.0 llc=0.0 wlc=0.0 lwc=0.0 wwc=0.0 lwlc=0.0 wwlc=0.0 saref=1.04e-6 sbref=1.04e-6 kvth0=9.8e-9 lkvth0=0.0 wkvth0=2.0e-7 pkvth0=0.0 llodvth=0.0 wlodvth=1.0 wlod=0.0 stk2=0.0 lodk2=1.0 lodeta0=1.0 ku0=-2.7e-8 lku0=0.0 wku0=0.0 pku0=0.0 tku0=0.0 llodku0=0.0 wlodku0=1.0 kvsat=0.2 steta0=0.0 type=1
@elseif l*$scale >= 1.5e-7 && l*$scale < 1.8e-7 && w*$scale >= 3.9e-7 && w*$scale < 4.2e-7
    model m_sky130_fd_pr__special_nfet_01v8__model sp_bsim4v8       binunit=2.0 mobmod=0.0 capmod=2.0 igcmod=0.0 igbmod=0.0 geomod=0.0 diomod=1.0 rdsmod=0.0 rbodymod=1.0 rgatemod=0.0 permod=1.0 acnqsmod=0.0 trnqsmod=0.0 fnoimod=1.0 tnoimod=1.0 tempmod=0.0 toxe=4.148e-09 + mc_mm_switch * 0 * (4.148e-9 * 1.0 * (sky130_fd_pr__special_nfet_01v8__toxe_slope / sqrt(l * w * mult))) toxm=4.148e-9 dtox=0.0 epsrox=3.9 xj=1.5e-7 ngate=1.0e+23 ndep=1.7e+17 nsd=1.0e+20 rsh=1.0 rshg=0.1 wint=2.1859e-8 lint=1.1932e-8 vth0=-1.552765479e+00 + mc_mm_switch * 0 * (sky130_fd_pr__special_nfet_01v8__vth0_slope / sqrt(l * w * mult)) lvth0=3.118764262e-07 wvth0=8.136238717e-07 pvth0=-1.270359768e-13 k1=0.90707349 k2=-6.861111273e-01 lk2=8.473231032e-08 wk2=1.957465773e-07 pk2=-3.056308759e-14 k3=2.0 k3b=0.54 w0=0.0 dvt0=0.0 dvt1=0.53 dvt2=-0.032 dvt0w=-3.58 dvt1w=1670600.0 dvt2w=0.068 dsub=3.327233918e+00 ldsub=-4.221142877e-07 wdsub=-1.017279861e-06 pdsub=1.588340084e-13 minv=0.0 voffl=5.8197729e-9 lpe0=1.0325e-7 lpeb=-7.082e-8 vbm=-3.0 dvtp0=0.0 dvtp1=0.0 phin=0.0 cdsc=0.0 cdscb=0.0 cdscd=0.002052 cit=0.0 voff=-0.20753 + mc_mm_switch * 0 * (sky130_fd_pr__special_nfet_01v8__voff_slope / sqrt(l * w * mult)) nfactor=-9.376860080e+00 lnfactor=1.630003644e-06 wnfactor=1.905910194e-06 pnfactor=-2.975811940e-13 eta0=0.0 etab=-0.043998 u0=2.328525708e-01 lu0=-3.255595964e-08 wu0=-8.966650519e-08 pu0=1.400016945e-14 ua=-1.393966080e-09 lua=3.574422705e-17 wua=1.398486939e-16 pua=-2.183541567e-23 ub=6.496925019e-18 lub=-7.119778210e-25 wub=-2.980183497e-24 pub=4.653139304e-31 uc=-1.261952878e-10 luc=3.398366988e-17 wuc=1.186133762e-16 puc=-1.851981810e-23 ud=0.0 up=0.0 lp=1.0 eu=1.67 vtl=0.0 xn=3.0 vsat=3.844848871e+05 lvsat=-3.133632143e-02 wvsat=-9.060217712e-02 pvsat=1.414626153e-8 a0=1.5 ags=1.25 a1=0.0 a2=0.42385546 b0=0.0 b1=0.0 keta=-1.038255850e+00 lketa=1.514331602e-07 wketa=4.029564649e-07 pketa=-6.291601060e-14 dwg=0.0 dwb=0.0 pclm=1.737606982e-02 lpclm=2.557100636e-08 wpclm=1.207637141e-07 ppclm=-1.885556327e-14 pdiblc1=0.35697215 pdiblc2=0.0084061121 pdiblcb=-0.10329577 drout=0.50332666 pscbe1=791419880.0 pscbe2=1.0e-12 pvag=0.0 delta=0.01 fprout=0.0 pdits=0.0 pditsl=0.0 pditsd=0.0 lambda=0.0 lc=5.0e-9 rdsw=65.968 rsw=0.0 rdw=0.0 rdswmin=0.0 rdwmin=0.0 rswmin=0.0 prwb=0.0 prwg=0.021507 wr=1.0 alpha0=1.424179121e-07 lalpha0=-1.417994553e-14 walpha0=2.955654554e-21 palpha0=-4.614840902e-28 alpha1=0.85 beta0=1.671249328e+01 lbeta0=-3.610634506e-07 wbeta0=2.044754410e-14 pbeta0=-3.192596409e-21 agidl=0.0 bgidl=2300000000.0 cgidl=0.5 egidl=0.8 toxref=4.148e-9 dlcig=0.0 aigbacc=1.0 bigbacc=0.0 cigbacc=0.0 nigbacc=0.0 aigbinv=0.35 bigbinv=0.03 cigbinv=0.006 eigbinv=1.1 nigbinv=0.0 aigc=0.43 bigc=0.054 cigc=0.075 aigsd=0.43 bigsd=0.054 cigsd=0.075 nigc=0.0 poxedge=1.0 pigcd=1.0 ntox=1.0 vfbsdoff=0.0 dlc=9.87908e-9 dwc=0.0 xpart=0.0 cgso=2.449068e-10 cgdo=2.449068e-10 cgbo=1.0e-13 cgdl=0.0 cgsl=0.0 clc=1.0e-7 cle=0.6 cf=1.4067e-12 ckappas=0.6 vfbcv=-1.0 acde=0.4 moin=6.9 noff=3.4037 voffcv=-0.17287 xrcrg1=12.0 xrcrg2=1.0 rbpb=50.0 rbpd=50.0 rbps=50.0 rbdb=50.0 rbsb=50.0 gbmin=1.0e-12 ef=0.84 noia=2.5e+42 noib=0.0 noic=0.0 em=41000000.0 ntnoi=1.0 lintnoi=-1.0e-7 af=1.0 kf=0.0 tnoia=15000000.0 tnoib=9900000.0 rnoia=0.94 rnoib=0.26 xl=0.0 xw=0.0 dmcg=0.0 dmdg=0.0 dmcgt=0.0 xgw=0.0 xgl=0.0 ngcon=1.0 jss=0.00275 jsws=6.0e-10 ijthsfwd=0.1 ijthsrev=0.1 bvs=11.7 xjbvs=1.0 pbs=0.729 cjs=0.001339749237 mjs=0.44 pbsws=0.2 cjsws=3.67354204e-11 mjsws=0.0009 pbswgs=0.95578 cjswgs=2.38232788e-10 mjswgs=0.8 tnom=30.0 kt1=-1.368700706e-01 lkt1=-1.312958075e-08 wkt1=-1.018287676e-15 pkt1=1.589913756e-22 kt2=-0.028878939 at=1.675154536e+03 lat=6.564790030e-03 wat=-3.270385787e-10 pat=5.106249591e-17 ute=-9.418347041e-01 lute=-5.265038572e-08 wute=-2.218109000e-07 pute=3.463266668e-14 ua1=-2.3847336e-11 ub1=7.0775317e-19 uc1=1.4718625e-10 kt1l=0.0 prt=0.0 tvoff=0.0 njs=1.2928 tpb=0.0012287 tcj=0.000792 tpbsw=0.0 tcjsw=1.0e-5 tpbswg=0.0 tcjswg=0.0 xtis=2.0 tvfbsdoff=0.0 ll=0.0 wl=0.0 lln=1.0 wln=1.0 lw=0.0 ww=0.0 lwn=1.0 wwn=1.0 lwl=0.0 wwl=0.0 llc=0.0 wlc=0.0 lwc=0.0 wwc=0.0 lwlc=0.0 wwlc=0.0 saref=1.04e-6 sbref=1.04e-6 kvth0=9.8e-9 lkvth0=0.0 wkvth0=2.0e-7 pkvth0=0.0 llodvth=0.0 wlodvth=1.0 wlod=0.0 stk2=0.0 lodk2=1.0 lodeta0=1.0 ku0=-2.7e-8 lku0=0.0 wku0=0.0 pku0=0.0 tku0=0.0 llodku0=0.0 wlodku0=1.0 kvsat=0.2 steta0=0.0 type=1
@end

ends // sky130_fd_pr__special_nfet_01v8
