parameters sky130_fd_pr__special_nfet_pass__tox_slope_spectre=0.0
parameters sky130_fd_pr__special_nfet_pass__vth0_slope_spectre=0.0
parameters sky130_fd_pr__special_nfet_pass__voff_slope_spectre=0.0
parameters sky130_fd_pr__special_nfet_pass__nfactor_slope_spectre=0.0
subckt sky130_fd_pr__special_nfet_pass (d g s b)
parameters l=1 w=1 ad=0 as=0 pd=0 ps=0 nrd=0 nrs=0 mult=1 sa=0 sb=0 sd=0.0
msky130_fd_pr__special_nfet_pass (d g s b) m_sky130_fd_pr__special_nfet_pass__model l=l w=w ad=ad as=as pd=pd ps=ps nrd=nrd nrs=nrs
@if l*$scale >= 7.5e-8 && l*$scale < 1.505e-7 && w*$scale >= 1.395e-7 && w*$scale < 1.405e-7
    model m_sky130_fd_pr__special_nfet_pass__model bsim3      tnom=30.0  tox=4.148e-009 * sky130_fd_pr__special_nfet_pass__tox_mult + mc_mm_switch * 0 * (4.148e-009 * sky130_fd_pr__special_nfet_pass__tox_mult * (sky130_fd_pr__special_nfet_pass__tox_slope / sqrt(l * w * mult))) toxm=4.148e-9 xj=1.2e-7 nch=1.12471e+18 lln=1.0 lwn=1.0 wln=1.0 wwn=1.0 lint=0 + sky130_fd_pr__special_nfet_pass__lint_diff ll=0.0 lw=0.0 lwl=0.0 wint=0 + sky130_fd_pr__special_nfet_pass__wint_diff wl=0.0 ww=0.0 wwl=0.0 mobmod=1.0 binunit=2.0 dwg=0.0 dwb=0.0 rsh=1.0 vth0=0.65009 + sky130_fd_pr__special_nfet_pass__vth0_diff_0 + mc_mm_switch * 0 * (sky130_fd_pr__special_nfet_pass__vth0_slope / sqrt(w * l * mult)) k1=0.53066 k2=-0.12745 + sky130_fd_pr__special_nfet_pass__k2_diff_0 k3=0 + sky130_fd_pr__special_nfet_pass__k3_diff dvt0=0 + sky130_fd_pr__special_nfet_pass__dvt0_diff dvt1=0.53 dvt2=0.0 dvt0w=0.0 dvt1w=10100.0 dvt2w=0.0 nlx=0.0 w0=1.0e-6 k3b=0.0 ngate=1.0e+23 vfb=-0.9693 vsat=101250 + sky130_fd_pr__special_nfet_pass__vsat_diff_0 ua=-1.9925e-9 ub=1.9307e-18 uc=4.5872e-11 rdsw=103.2113 + sky130_fd_pr__special_nfet_pass__rdsw_diff_0 prwb=0.3 prwg=0.2 wr=1.0 u0=0.01592 + sky130_fd_pr__special_nfet_pass__u0_diff_0 a0=1.0 keta=-0.061906 a1=0.0 a2=1.0 ags=0.5115 b0=0.0 b1=0.0 voff=-0.15507 + sky130_fd_pr__special_nfet_pass__voff_diff_0 + mc_mm_switch * 0 * (sky130_fd_pr__special_nfet_pass__voff_slope / sqrt(w * l * mult)) nfactor=1.7935 + sky130_fd_pr__special_nfet_pass__nfactor_diff_0 + mc_mm_switch * 0 * (sky130_fd_pr__special_nfet_pass__nfactor_slope / sqrt(w * l * mult)) cit=0 + sky130_fd_pr__special_nfet_pass__cit_diff cdsc=0 + sky130_fd_pr__special_nfet_pass__cdsc_diff cdscb=0 + sky130_fd_pr__special_nfet_pass__cdscb_diff cdscd=0 + sky130_fd_pr__special_nfet_pass__cdscd_diff eta0=0.1168 etab=0.00804 dsub=0.5 pclm=0.93451 pdiblc1=0.0 pdiblc2=0.035291 pdiblcb=-0.15462 drout=0.5 pscbe1=7.8166e+8 pscbe2=1.0e-20 pvag=0.0 delta=0.0104 alpha0=0.00064059 alpha1=0.0 beta0=26.6 kt1=-0.245 + sky130_fd_pr__special_nfet_pass__kt1_diff_0 kt2=-0.01458 + sky130_fd_pr__special_nfet_pass__kt2_diff at=25430.0 ute=-1.1259 ua1=3.7209e-10 ub1=-1.3557e-19 uc1=-2.31e-12 kt1l=0 + sky130_fd_pr__special_nfet_pass__kt1l_diff prt=0.0 cj=0.0013459 * sky130_fd_pr__special_nfet_pass__ajunction_mult mj=0.44 pb=0.729 cjsw=3.6001e-011 * sky130_fd_pr__special_nfet_pass__pjunction_mult mjsw=0.0009 pbsw=0.2 cjswg=2.3347e-010 * sky130_fd_pr__special_nfet_pass__pjunction_mult mjswg=0.8000 pbswg=0.95578 tpb=0.0012287 tpbsw=0.0 tpbswg=0.0 tcj=0.000792 tcjsw=1.0e-5 tcjswg=0.0 js=0.0027500000000000003 jsw=6.0e-10 nj=1.2928 xti=2.0 cgdo=3.2e-010 * sky130_fd_pr__special_nfet_pass__overlap_mult cgso=3.2e-010 * sky130_fd_pr__special_nfet_pass__overlap_mult cgbo=1.0e-13 capmod=3.0 elm=0.0 xpart=0.0 cgsl=0 * sky130_fd_pr__special_nfet_pass__overlap_mult cgdl=0 * sky130_fd_pr__special_nfet_pass__overlap_mult ckappa=0.6 cf=1.4067e-12 clc=1.0e-7 cle=0.6 dlc=1.8739e-008 + sky130_fd_pr__special_nfet_pass__dlc_diff + sky130_fd_pr__special_nfet_pass__dlc_rotweak dwc=0 + sky130_fd_pr__special_nfet_pass__dwc_diff vfbcv=-1.0 acde=0.4 moin=6.9 noff=3.621 voffcv=-0.1372 lwc=0.0 llc=0.0 lwlc=0.0 wlc=0.0 wwc=0.0 wwlc=0.0 noimod=2.0 noia=1.1737146E+41 * 1.6e-21 noib=3.2036721E+25 * 1.6e-21 noic=-3.7339643E+08 * 1.6e-21 em=4.1000000e+7 ef=0.8439365 type=1
@end

ends // sky130_fd_pr__special_nfet_pass
